US05106732
4'-Benzyloxyacetophenone (55.0 g) was stirred in chloroform (500 ml), and bromine (13.0 ml) was added dropwise thereto at room temperature in 30 minutes. The mixture was stirred for 10 minutes, and the reaction mixture was washed with aqueous solution of sodium sulfate, water and saturated saline in turn, dried with anhydrous sodium sulfate and then concentrated. The precipitating crystals were recrystallized from acetone-diisopropyl ether to give 4'-benzyloxy-2-bromoacetophenone (25.7 g, 34.6%). m.p. 81°-82° C.

reactant | 4'-Benzyloxyacetophenone | 55.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C)=O | C15H14O2
reactant | bromine | 13.0 ml | BrBr | Br2
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 4'-benzyloxy-2-bromoacetophenone | 25.7 g, 34.6% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CBr)=O | C15H13BrO2
